US05420156
To a batch of 1-lithiophenoxathiin 10,10-dioxide, prepared according to the procedure of Example 1B from 44 g of phenoxathiin 10,10-dioxide chilled to ≤-50° C. in a dry ice/acetone bath, was slowly added chilled acetaldehyde (20.37 g). The reaction mixture was maintained at -50° C. during the addition which took 45 min. It was then allowed to warm to room temperature, and the solvent was removed under reduced pressure. The yellow-orange residue was stirred overnight with 0.5 N hydrochloric acid (259 mL), filtered and washed with water (500 mL). It was then washed throughly with ethanol (1.5 L), filtered and dried to give 1-(1-hydroxyethyl) phenoxathiin 10,10-dioxide (41 g) which was sufficiently pure for the next step (conversion to 1-ethylphenoxathiin 10,10-dioxide).

reactant | 1-lithiophenoxathiin 10,10-dioxide | [Li]C1=CC=CC=2OC3=CC=CC=C3S(C12)(=O)=O
reactant | phenoxathiin 10,10-dioxide | 44 g | C1=CC=CC=2OC3=CC=CC=C3S(C12)(=O)=O | C12H8O3S
reactant | acetaldehyde | 20.37 g | C(C)=O | C2H4O
product | 1-(1-hydroxyethyl) phenoxathiin 10,10-dioxide | 41 g | OC(C)C1=CC=CC=2OC3=CC=CC=C3S(C12)(=O)=O | C14H12O4S
